US06777432B1
3-[5-(4-fluoro-phenylcarbamoyl)-pyridin-2-ylsulfanyl]-propionic acid
To a solution of 6-chloro-N-(4-fluoro-phenyl)-nicotinamide (0.20 g, 0.80 mmol) in 10 mL of DMF was added 3-mercaptopropionic acid (0.10 mL, 1.2 mmol) and potassium tert-butoxide (0.31 g, 2.8 mmol) and the mixture heated to 60° C. After 9 h the reaction mixture was poured into ice water, HCl (1 M, aq) added to adjust to pH 6, and the solids removed via filtration. The filtrate was then taken to pH 10 with NaOH (4M, aq) and extracted with ethyl acetate. HCl (6M, aq) was then added to the filtrate to adjust the pH to 4 and extracted with ethyl acetate, dried over sodium sulfate, and the solvents removed in vacuo to yield a white solid. Purification by recrystallization using ethyl acetate gave 0.17 g (66%) of the titled product as a white solid; MS (EI) m/z 319.20 (M−H)−.

reactant | 6-chloro-N-(4-fluoro-phenyl)-nicotinamide | 0.80 mmol, 0.20 g | ClC1=NC=C(C(=O)NC2=CC=C(C=C2)F)C=C1 | C12H8ClFN2O
reactant | 3-mercaptopropionic acid | 1.2 mmol, 0.10 mL | SCCC(=O)O | C3H6O2S
reactant | potassium tert-butoxide | 2.8 mmol, 0.31 g | CC(C)([O-])C.[K+]
reactant | HCl | 1 M | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-[5-(4-fluoro-phenylcarbamoyl)-pyridin-2-ylsulfanyl]-propionic acid | 0.17 g, 66% | FC1=CC=C(C=C1)NC(=O)C=1C=CC(=NC1)SCCC(=O)O | C15H13FN2O3S
